US07915261B2
Methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate (723 mg) was added to an acetonitrile (10 ml) solution of 3-[2-(4-piperidyl)ethyl]benzonitrile hydrochloride (475 mg) and TEA (0.58 ml), followed by stirring overnight at room temperature. The reaction liquid was diluted with EtOAc, followed by washing with an aqueous saturated sodium hydrogencarbonate solution and drying over anhydrous magnesium sulfate. The solvent was evaporated, the resulting residue was subjected to basic silica gel column chromatography (eluent: hexane:EtOAc=1:1 (v/v)) and the side-product, nitrophenol was removed. Then, this was purified by silica gel column chromatography (eluent: hexane:EtOAc=3:2 (v/v)) to obtain methyl 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinate (284 mg).

reactant | Methyl 5-{[(4-nitrophenoxy)carbonyl]oxy}nicotinate | 723 mg | [N+](=O)([O-])C1=CC=C(OC(=O)OC=2C=NC=C(C(=O)OC)C2)C=C1 | C14H10N2O7
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 3-[2-(4-piperidyl)ethyl]benzonitrile hydrochloride | 475 mg | Cl.N1CCC(CC1)CCC=1C=C(C#N)C=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinate | 284 mg | C(#N)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)OC)C1 | C22H23N3O4
